US05756528
Step C: Preparation of N-[2(S)-(Amino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine methyl ester hydrochloride
A solution of N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl) glycine methyl ester (5.90 g, 13.8 mmol) in EtOAc (100 ml) was saturated with gaseous hydrogen chloride. The resulting solution was allowed to stand at room temperature for 1 hr. The solvent was evaporated in vacuo to afford the title compound as a white solid.

reactant | N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl) glycine methyl ester | 13.8 mmol, 5.90 g | COC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)NC(=O)OC(C)(C)C)=O | C25H36N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | N-[2(S)-(Amino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine methyl ester hydrochloride | Cl.COC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)N)=O | InChI=1S/C20H28N2O2.ClH/c1-4-15(2)19(21)13-22(14-20(23)24-3)12-17-10-7-9-16-8-5-6-11-18(16)17;/h5-11,15,19H,4,12-14,21H2,1-3H3;1H/t15-,19+;/m0./s1
